US05646155
Sodium hydride (161 mg, 4 mmol; 60% suspension in mineral oil) was added to a suspension of 2-anilino-6-chloropurine (1 g, 4 mmol; Focher et al. (1988) J. Med. Chem. 31:1496-1500) in anhydrous acetonitrile (240 ml) at room temperature. After stirring for 1 hr epibromohydrin (0.35 ml, 4 mmol) was added, and the suspension was stirred for 48 hr. An equal volume of chloroform was added, and, after filtration through Celite, the filtrate was evaporated to dryness. The residue was chromatographed on silica gel, and the major product was eluted with chloroform to give 417 mg (34% yield) of 2-anilino-6-chloro-9-(2,3-epoxypropyl)purine. 1H NMR δ9.97 (s, 2-NH), 8.24 (s, 8-H), 7.40 (m, C6H5), 4.38 (m, 1'-CH2), 3.45 (m, 2'-CH), 2.72 (m, 3'-CH2). Further elution gave 46 mg (3.8% yield) of the minor 7-isomer.

reactant | Sodium hydride | 4 mmol, 161 mg | [H-].[Na+]
reactant | 2-anilino-6-chloropurine | 4 mmol, 1 g | N(C1=CC=CC=C1)C1=NC(=C2NC=NC2=N1)Cl | C11H8ClN5
reactant | epibromohydrin | 4 mmol, 0.35 ml | C(Br)C1CO1 | C3H5BrO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 240 ml | C(C)#N | C2H3N
product | 2-anilino-6-chloro-9-(2,3-epoxypropyl)purine | 417 mg, 34% yield | N(C1=CC=CC=C1)C1=NC(=C2N=CN(C2=N1)CC1CO1)Cl | C14H12ClN5O
